US04340754
The mother liquors of the solution of the partially resolved (+)-erythrochlorocitric acid, bis-(-)-p-nitro-α-methylbenzylamine salt were treated with 13 ml (0.52 mol) of conc hydrochloric acid and evaporated to dryness. 1,2-Dimethoxyethane was added and the solution was evaporated to dryness. Ether was added to the residue, the mixture was stirred and the precipitate was collected to afford 29.2 g of (-)-p-nitro-α-methylbenzylamine hydrochloride.

reactant | (-)-p-nitro-α-methylbenzylamine | [N+](=O)([O-])C1=CC=C(C(C)N)C=C1 | C8H10N2O2
reactant | hydrochloric acid | 0.52 mol, 13 ml | Cl | ClH
product | (-)-p-nitro-α-methylbenzylamine hydrochloride | 29.2 g | Cl.[N+](=O)([O-])C1=CC=C(C(C)N)C=C1 | InChI=1S/C8H10N2O2.ClH/c1-6(9)7-2-4-8(5-3-7)10(11)12;/h2-6H,9H2,1H3;1H
